US04020072
28.7 g. of 3,6-dimethyl-1-ethyl-1H-pyrazolo[3,4-b]pyridin-4-ol (0.15 mol.), 6.75 g. of paraformaldehyde (0.22 mol.) and 13.5 g. of dimethylamine hydrochloride (0.165 mol.) suspended in 400 ml. dimethylformamide is reacted and worked up according to the procedure of Example 6 to obtain 5-[(dimethylamino)methyl]-3,6-dimethyl-1-ethyl-1H-pyrazolo[3,4-b]pyridin-4-ol, hydrochloride (1:1) yield 30.3 g. (71%), m.p. 242°-245°.

reactant | 3,6-dimethyl-1-ethyl-1H-pyrazolo[3,4-b]pyridin-4-ol | 0.15 mol | CC1=NN(C=2N=C(C=C(C21)O)C)CC | C10H13N3O
reactant | paraformaldehyde | 0.22 mol | C=O | CH2O
reactant | dimethylamine hydrochloride | 0.165 mol | Cl.CNC
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-[(dimethylamino)methyl]-3,6-dimethyl-1-ethyl-1H-pyrazolo[3,4-b]pyridin-4-ol, hydrochloride | yield 30.3 g | Cl.CN(C)CC1=C(C2=C(N=C1C)N(N=C2C)CC)O | InChI=1S/C13H20N4O.ClH/c1-6-17-13-11(9(3)15-17)12(18)10(7-16(4)5)8(2)14-13;/h6-7H2,1-5H3,(H,14,18);1H
